US05258407
2-(2,4-di-tert-pentylphenoxy)-5-hydroxybenzanilide
A solution of 2-(2,4-di-tert-pentylphenoxy)-5-hydroxybenzoic acid (3.3 g, 8.9 mmol) and oxalyl chloride (1.25 g, 9.8 mmol) in dichloromethane (75 mL) was stirred at room temperature for 2 hours. The solvent was removed in vacuo and the residue triturated with toluene (25 mL) followed by distillation of the solvent. The crystalline residue was taken up in dichloromethane (80 mL) and aniline (1.66 g, 17.9 mmol) was added. The reaction mixture was allowed to stir at room temperature for 8 hours, then submitted to aqueous, acidic workup. Flash column chromatography on silica gel with 90:10 heptane:ethyl acetate yielded the addition product. Recrystallization from heptane/ethyl acetate yielded analytically pure product in 79% overall yield.

reactant | 2-(2,4-di-tert-pentylphenoxy)-5-hydroxybenzoic acid | 8.9 mmol, 3.3 g | C(C)(C)(CC)C1=C(OC2=C(C(=O)O)C=C(C=C2)O)C=CC(=C1)C(C)(C)CC | C23H30O4
reactant | oxalyl chloride | 9.8 mmol, 1.25 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aniline | 17.9 mmol, 1.66 g | NC1=CC=CC=C1 | C6H7N
reactant | heptane | CCCCCCC | C7H16
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-di-tert-pentylphenoxy)-5-hydroxybenzanilide | C(C)(C)(CC)C1=C(OC2=C(C(=O)NC3=CC=CC=C3)C=C(C=C2)O)C=CC(=C1)C(C)(C)CC | C29H35NO3
